US07795253B2
d) 4-[Hydroxy-(1-trityl-1H-imidazol-4-yl)methyl]benzonitrile
A solution of 14.80 mmol of 4-iodobenzonitrile [3058-39-7] in 20 ml of tetrahydrofuran is cooled to −30° C., and 14.80 mmol of i-propylmagnesium chloride (2M in tetrahydrofuran) are added. The mixture is stirred at −30° C. for 60 minutes and a solution, precooled to −30° C., of 11.84 mmol of 1-trityl-1H-imidazole-4-carbaldehyde [33016-47-6] in 30 ml of tetrahydrofuran is added. The mixture is stirred at −30° C. for 30 minutes, and then the reaction mixture is warmed to room temperature and quenched with saturated aqueous ammonium chloride solution. The phases are separated, and the aqueous phase is extracted with ethyl acetate (3×). The combined organic phases are washed with brine, dried with magnesium sulphate and evaporated. The title compound is obtained as a white solid from the residue by recrystallization from ethyl acetate. Rf=0.23 (CH2Cl2-2M NH3 in EtOH 97:3); Rt=7.32.

reactant | 4-iodobenzonitrile | 14.80 mmol | IC1=CC=C(C#N)C=C1 | C7H4IN
reactant | i-propylmagnesium chloride | 14.80 mmol, 2M | C(C)(C)[Mg]Cl
reactant | 1-trityl-1H-imidazole-4-carbaldehyde | 11.84 mmol | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C=O | C23H18N2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-[Hydroxy-(1-trityl-1H-imidazol-4-yl)methyl]benzonitrile | OC(C1=CC=C(C#N)C=C1)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H23N3O
